US06107342
To a solution of (1S,2R,3R,5R,6S)-2-azido-3-benzyloxy-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid 2-benzyl ester 6-ethyl ester (XXIII-3) (120 mg, 0.276 mmol) in THF (4 mL) and H2O (0.4 mL) was added Me3P (0.30 mL, 0.30 mmol, 1 M sol. in THF) and stirring was continued at 23° C. for 4 h. The reaction mixture was diluted with ether, washed with sat. NaHCO3 -sol., brine and dried over Na2SO4. The crude product was purified by silica gel column chromatography with hexane/EtOAc 1:1 (+small amount of Et3N) to give (1S,2R,3R,5R,6S)-2-amino-3-benzyloxy-bicyclo [3.1.0]hexane-2,6-dicarboxylic acid 2-benzyl ester 6-ethyl ester (XXIV-3) (58 mg, 51%) as a yellow oil. 1H-NMR (250 MHz, CDCI3) □1.23 (3H, t, J=7.1 Hz), 1.72 (1H, t, J=3.5 Hz), 1.93 (2H, bs), 2.00 (1H, m), 2.10 (1H, dd, J=7, 3.5 Hz), 2.19 (1H, m), 2.27 (1H, dd,J=12,7 Hz), 3.46 (1H, dd,J=8, 7 Hz), 4.10 (2H, q,J=7.1 Hz), 4.47 (2H, s),5.20 (1H,d,J=12 Hz), 5.30 (1H, d,J=12 Hz), 7.18-7.42 (10H,m);MS[ISP] 410 [(M+H)+ ]; □D20 +3.54° (c=0.90, CHCl3).

reactant | (1S,2R,3R,5R,6S)-2-azido-3-benzyloxy-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid 2-benzyl ester 6-ethyl ester | 0.276 mmol, 120 mg | C(C)OC(=O)[C@H]1[C@@H]2C[C@H]([C@]([C@H]12)(C(=O)OCC1=CC=CC=C1)N=[N+]=[N-])OCC1=CC=CC=C1 | C24H25N3O5
reactant | Me3P | 0.30 mmol, 1 M, 0.30 mL | P(C)(C)C | C3H9P
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | H2O | 0.4 mL | O | H2O
solvent | ether | CCOCC | C4H10O
product | (1S,2R,3R,5R,6S)-2-amino-3-benzyloxy-bicyclo [3.1.0]hexane-2,6-dicarboxylic acid 2-benzyl ester 6-ethyl ester | 58 mg, 51% | C(C)OC(=O)[C@H]1[C@@H]2C[C@H]([C@]([C@H]12)(C(=O)OCC1=CC=CC=C1)N)OCC1=CC=CC=C1 | C24H27NO5
